* C:\users\abel\Desktop\Abel\Facu\Github Repositories\EverySound\Simulations\Filters\Scripts\Low Pass Filter.asc
C1 0 Vo1 10p
R1 Vi1 Vo1 1k
V1 Vi1 0 V
* Low Pass Filter
.backanno
.end
